US05753664
6-Tert-butyl-1,2,3,4-tetrahydropyrido[2,3-d]-pyridazin-5(6H)-one
In acetic acid (20 ml) was dissolved 6-t-butyl-pyrido[2,3-d]pyridazin-5(6H)-one (955 mg) followed by addition of platinum oxide (94 mg), and the mixture was stirred under hydrogen at room temperature for 7 hours. The catalyst was then filtered off, the filtrate was concentrated to dryness, and the residue was washed with diethyl ether and dried. White powder, 911 mg. 1H-NMR (CDCl3) δ: 1.63(9H,s), 1.8-2.0(2H,m), 2.54(2H,t,J=6.2Hz), 3.28(2H,t,J=5.4Hz), 4.24(1H,brs), 7.19(1H,s).

reactant | 6-t-butyl-pyrido[2,3-d]pyridazin-5(6H)-one | 955 mg | C(C)(C)(C)N1N=CC2=C(C1=O)C=CC=N2 | C11H13N3O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 94 mg | [Pt]=O
product | 6-Tert-butyl-1,2,3,4-tetrahydropyrido[2,3-d]-pyridazin-5(6H)-one | C(C)(C)(C)N1N=CC2=C(C1=O)CCCN2 | C11H17N3O
